US06011044
Preparation of 1-(2-ethylphenyl)-4-[(2-hydroxyethyl)amino]-6-trifluoromethoxy-2,3-dihydropyrrolo[3,2-c]quinoline
4-Oxo-6-trifluoromethoxy-2,3,4,5-tetrahydrofuro[3,2-c]quinoline(7.0 g, 25.8 mmol) was dissolved in diethylene glycol(30 ml) and 2-ethylaniline(6.7 g, 51 mmol) was added under nitrogen. The reaction mixture was refluxed at 250° C. for 15 hours. The reaction mixture was diluted in brine(20 ml), then the aqueous layer was extracted with dichloromethane(15 ml) for 3 times. The organic layer was washed with water(15 ml) for 3 times, dried over anhydrous magnesium sulfate, filtered and concentrated under reduced pressure. The residue was purified by silica gel chromatography with ethyl acetate as eluent to obtain 5.1 g of desired compound as solid in 53% of yield.

reactant | 4-Oxo-6-trifluoromethoxy-2,3,4,5-tetrahydrofuro[3,2-c]quinoline | 25.8 mmol, 7.0 g | O=C1NC=2C(=CC=CC2C2=C1CCO2)OC(F)(F)F | C12H8F3NO3
reactant | 2-ethylaniline | 51 mmol, 6.7 g | C(C)C1=C(N)C=CC=C1 | C8H11N
solvent | diethylene glycol | 30 ml | C(COCCO)O | C4H10O3
solvent | brine | 20 ml | [Cl-].[Na+].O
product | 1-(2-ethylphenyl)-4-[(2-hydroxyethyl)amino]-6-trifluoromethoxy-2,3-dihydropyrrolo[3,2-c]quinoline | 5.1 g | C(C)C1=C(C=CC=C1)N1CCC=2C(=NC=3C(=CC=CC3C21)OC(F)(F)F)NCCO | C22H22F3N3O2
